US05374772
A mixture of 1.5 g (4.1 mmol) of 3-hydroxy-5-(tetradecyloxy) benzoic acid methyl ester, 2.3 g (5.1 mmol) of 1-(6-bromohexyl)-2,3-bis(phenylmethoxy)benzene, 1.1 g (8.2 mmol) of potassium carbonate and 0.6 g (4.1 mmol) of sodium iodide in 50 ml of acetone and 15 ml of DMF was stirred at reflux under argon for 32 hours. After the usual workup, the crude product was crystallized from methylene chloride-methanol to give 2.8 g (93% yield, mp 56°-58°) of 3-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]-5-(tetradecyloxy) benzoic acid methyl ester.

reactant | 3-hydroxy-5-(tetradecyloxy) benzoic acid methyl ester | 4.1 mmol, 1.5 g | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCC)O)=O | C22H36O4
reactant | 1-(6-bromohexyl)-2,3-bis(phenylmethoxy)benzene | 5.1 mmol, 2.3 g | BrCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
reactant | potassium carbonate | 8.2 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4.1 mmol, 0.6 g | [I-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]-5-(tetradecyloxy) benzoic acid methyl ester | 2.8 g, 93% yield | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCC)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C48H64O6
